US04038333
To a solution of 8.22 g (36 millimoles) of 3-bromo-4-homoisotwistane in 20 ml of dry toluene was added 1.4 g (36 millimoles) of sodium amide, and the mixture was stirred for 2 hours under reflux of toluene. After completion of the reaction, the reaction mixture was filtered and the filtrate was fractionally distilled to give 2.75 g (52% yield) of colorless tricyclo[5.3.1.03,8 ]undec-2-ene (boiling point of 90° to 92° C/19 mm Hg). Elementary Analysis Values:

reactant | sodium amide | 36 millimoles, 1.4 g | [NH2-].[Na+]
reactant | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | tricyclo[5.3.1.03,8 ]undec-2-ene | 2.75 g, 52% yield | C12C=C3CCCC(C3CC1)C2 | C11H16
